US08202873B2
Dissolve 4-(2-chloropyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester (2.7 g, 9.1 mmol) in toluene (30 mL). Add 4-fluorophenylboronic acid (1.92 g, 13.70 mmol) followed by bis(dibenzylideneacetone)palladium(0) (0.42 g, 0.46 mmol), 1,2,3,4,5-pentaphenyl-1′-(di-t-butylphosphino)ferrocene (CTC-Q-PHOS) (0.65 g, 0.91 mmol) and potassium phosphate (5.8 g, 27.3 mmol). Heat the reaction mixture at 100° C. for 23 hr. Cool to room temperature, concentrate and partition the residue between ethyl acetate and 1 N sodium hydroxide (pH=11). Dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 20:80 ethyl acetate:hexanes), to give 4-[2-(4-fluorophenyl)-pyridin-3-yl]-piperazine-1-carboxylic acid t-butyl ester (28%). MS (ES): m/z=358 [M+H].

reactant | 4-(2-chloropyridin-3-yl)-piperazine-1-carboxylic acid t-butyl ester | 9.1 mmol, 2.7 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)Cl | C14H20ClN3O2
reactant | 4-fluorophenylboronic acid | 13.70 mmol, 1.92 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium phosphate | 27.3 mmol, 5.8 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.46 mmol, 0.42 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
catalyst | 1,2,3,4,5-pentaphenyl-1′-(di-t-butylphosphino)ferrocene | 0.91 mmol, 0.65 g | C1(=CC=CC=C1)[C-]1C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[Fe+2]
product | 4-[2-(4-fluorophenyl)-pyridin-3-yl]-piperazine-1-carboxylic acid t-butyl ester | 28% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C(=NC=CC1)C1=CC=C(C=C1)F | C20H24FN3O2
